US06121271
4-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenoxysulfonyl]-2-hydroxy-benzoic acid
Using 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenol (0.289 g, 0.641 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (0.717 g, 3.03 mmol) the title compound was prepared according to the procedure in Example 1, step 9. Purification on Dynamax C18 eluting with 100% CH3CN (0.1% TFA added) gave 0.25 g (60%) of the title compound as a yellow solid, mp >225° C.; 1H NMR (DMSO-d6) δ 1.31-1.36 (m, 2 H), 1.49-1.59 (m, 5 H), 1.61-1.63 (m, 3 H), 1.78-1.82 (m, 1 H), 2.44 (s, 3 H), 3.04-3.10 (m, 1 H), 7.25-7.31 (m, 3 H), 7.34-7.37 (m, 3 H), 7.50 (t, 1 H), 7.66 (t, 1 H), 8.02 (d, 1 H), 8.21 (d, 1 H). IR (KBr): 3425, 2900, 1650, 1400 and 1175 cm-1. mass spectrum (-ESI), m/z 649/651 (M-H). Anal. Calcd. for C32H27BrO6S2.0.6H2O: C, 58.02; H, 4.29 N, 0.00. Found: C, 57.98; H, 4.35 N, 0.10.

reactant | 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenol | 0.641 mmol, 0.289 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C=C2)O)C2CCCC2 | C25H23BrOS
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 3.03 mmol, 0.717 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenoxysulfonyl]-2-hydroxy-benzoic acid | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O)C=C2)C2CCCC2 | C32H27BrO6S2
